US06194425B1
A catalytic amount of platinum oxide was added to a solution of 1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine (0.46 g) in trifluoroacetic acid (10 mL). The reaction mixture was reduced on a Parr apparatus under 45 psi (3.15 Kg/cm2) hydrogen pressure for 4 hours. The reaction mixture was filtered to remove the catalyst and the filtrate was concentrated under vacuum. The residue was combined with aqueous sodium bicarbonate then a small amount of 10% sodium hydroxide was added. The resulting precipitate was extracted with dichloromethane. The dichloromethane extract was dried over magnesium sulfate then concentrated under vacuum. The residue was purified by flash chromatography (silica gel eluting with 5% methanol in dichloromethane containing 0.5% ammonium hydroxide). The eluant was concentrated under vacuum. The residue was recrystallized from ethyl acetate to provide 6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine as a solid, m.p. 222-226° C. Analysis: Calculated for C13H19N5: % C, 63.65; % H, 7.81; % N, 28.55; Found: % C, 63.07; % H, 7.51; % N, 28.00.

reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine | 0.46 g | CC(CN1C=NC=2C(=NC=3C=CC=NC3C21)N)C | C13H15N5
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum oxide | [Pt]=O
product | 6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine | CC(CN1C=NC=2C(=NC=3CCCNC3C21)N)C | C13H19N5
